US05281602
2-Butyl-5,6,7,8-tetrahydro-6-(2-hydroxy-2-methyl-1-oxopropyl)-pyrido[4,3-d]pyrimidin-4(3H)-one
A mixture of 0.7 g of ethyl 1-(2-hydroxy-2-methyl-1-oxopropyl)-4-oxo-3-piperidinecarboxylate and 0.4 g of valeramidine hydrochloride in 8 ml of anhydrous ethyl alcohol is treated with 2.8 ml of a 1M solution of sodium methoxide in methanol. The resulting mixture is stirred and heated at reflux for one hour. The reaction mixture is allowed to cool over 30 minutes then filtered. The filtrate is evaporated to a syrup which is stirred with 50 ml of ether overnight. The ether is decanted to afford a oily solid which is dissolved in acetone and applied to thick layer silica gel plates. The plates are eluted with ethyl acetate and the major zone washed stirred with water and the water decanted. The residue is dried and chromatographed on thick layer silica gel chromatography plates using ethyl acetate as the elution solvent. The major band at Rf=0.2 is isolated by washing with acetone to afford 0.65 g of the desired product as a colorless solid, m.p. 159°-161° C.

reactant | ethyl 1-(2-hydroxy-2-methyl-1-oxopropyl)-4-oxo-3-piperidinecarboxylate | 0.7 g | OC(C(=O)N1CC(C(CC1)=O)C(=O)OCC)(C)C | C12H19NO5
reactant | valeramidine hydrochloride | 0.4 g | Cl.C(CCCC)(=N)N
reactant | sodium methoxide | C[O-].[Na+]
solvent | ethyl alcohol | 8 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | 2-Butyl-5,6,7,8-tetrahydro-6-(2-hydroxy-2-methyl-1-oxopropyl)-pyrido[4,3-d]pyrimidin-4(3H)-one | 0.65 g | C(CCC)C=1NC(C2=C(N1)CCN(C2)C(C(C)(C)O)=O)=O | C15H23N3O3
